US09169254B2
30% aqueous hydrogen peroxide (0.013 ml) was added to a mixed solution of (E)-1-(3,5-dimethyl-4-(2-((4-oxo-2-(5-(propylthio)pentyl)-1,3,8-triazaspiro[4.5]dec-1-en-8-yl)sulfonyl)vinyl)phenyl)-1-methyl-urea (55 mg) and molybdenum(IV) dichloride dioxide (3 mg) in acetone (1.5 ml)-water (0.5 ml), and the mixture was stirred at room temperature for five minutes in a nitrogen stream. The reaction mixture was quenched with a saturated aqueous sodium bicarbonate solution and then extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resulting residue was purified by column chromatography (silica gel, CH2Cl2-MeOH) to give 1-[3,5-dimethyl-4-((E)-2-{4-oxo-2-[5-(propane-1-sulfinyl)-pentyl]-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl}-vinyl)-phenyl]-1-methyl-urea (64 mg).

reactant | hydrogen peroxide | 0.013 ml | OO | H2O2
reactant | (E)-1-(3,5-dimethyl-4-(2-((4-oxo-2-(5-(propylthio)pentyl)-1,3,8-triazaspiro[4.5]dec-1-en-8-yl)sulfonyl)vinyl)phenyl)-1-methyl-urea | 55 mg | CC=1C=C(C=C(C1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)CCCCCSCCC)=O)CC1)C)N(C(=O)N)C | C27H41N5O4S2
reactant | water | 0.5 ml | O | H2O
solvent | acetone | 1.5 ml | CC(=O)C | C3H6O
product | 1-[3,5-dimethyl-4-((E)-2-{4-oxo-2-[5-(propane-1-sulfinyl)-pentyl]-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl}-vinyl)-phenyl]-1-methyl-urea | 64 mg | CC=1C=C(C=C(C1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)CCCCCS(=O)CCC)=O)CC1)C)N(C(=O)N)C | C27H41N5O5S2
